US07365225B2
{4-[((N,N-dimethylglycyl){[2-(4-{[(4-phenylbutyl)amino]carbonyl}phenyl)-1,3-thiazol-4-yl]methyl}amino)methyl]phenoxy}acetic acid
The title compound was prepared following the procedure [79 [0 using 4-phenylbutylamine, 4-[4-(chloromethyl)-1,3-thiazol-2-yl]benzoyl chloride, N,N-dimethylglycyl chloride hydrochloride and methyl[4-(aminomethyl)phenoxy]acetate, acetate salt. M+(ESI): 615.2

reactant | 4-phenylbutylamine | C1(=CC=CC=C1)CCCCN | C10H15N
reactant | 4-[4-(chloromethyl)-1,3-thiazol-2-yl]benzoyl chloride | ClCC=1N=C(SC1)C1=CC=C(C(=O)Cl)C=C1 | C11H7Cl2NOS
reactant | N,N-dimethylglycyl chloride hydrochloride | Cl.CN(CC(=O)Cl)C
reactant | methyl[4-(aminomethyl)phenoxy]acetate | COC(COC1=CC=C(C=C1)CN)=O | C10H13NO3
product | {4-[((N,N-dimethylglycyl){[2-(4-{[(4-phenylbutyl)amino]carbonyl}phenyl)-1,3-thiazol-4-yl]methyl}amino)methyl]phenoxy}acetic acid | CN(CC(=O)N(CC=1N=C(SC1)C1=CC=C(C=C1)C(=O)NCCCCC1=CC=CC=C1)CC1=CC=C(OCC(=O)O)C=C1)C | C34H38N4O5S
